US04468400
Stir a mixture of 24 g (0.13 mol) 2-methyl-8-hydroxyimidazo[1,2-a]pyridin-3-acetonitrile and 26 g (0.14 mol) N,N-dimethylmethyleneammonium iodide in 4L methylene chloride at ambient temperature for 4 days. Isolate the resulting solid by filtration, treat with 200 ml dilute ammonium hydroxide and extract continuously with methylene chloride for 4 hr. Remove the methylene chloride under reduced pressure and obtain 20 g 2-methyl-7-dimethylaminomethyl-8-hydroxy-imidazo[1,2-a]-pyridin-3-acetonitrile.

reactant | 2-methyl-8-hydroxyimidazo[1,2-a]pyridin-3-acetonitrile | 0.13 mol, 24 g | CC=1N=C2N(C=CC=C2O)C1CC#N | C10H9N3O
reactant | N,N-dimethylmethyleneammonium iodide | 0.14 mol, 26 g | [I-].CC=[N+]=CC
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-methyl-7-dimethylaminomethyl-8-hydroxy-imidazo[1,2-a]-pyridin-3-acetonitrile | 20 g | CC=1N=C2N(C=CC(=C2O)CN(C)C)C1CC#N | C13H16N4O
